US06936606B2
3,3,4-Trimethylpentene (1 equiv) is dissolved in dry THF under Ar. The reaction mixture is cooled to −78° C. at which time a 1 M solution of borane/dimethylsulfide complex in THF (0.4 equiv) is added dropwise. The cold bath is removed and the reaction mixture is allowed to warm to ambient temperature. The reaction mixture is carefully diluted with a solution of sodium acetate in aqueous hydrogen peroxide (large exess). The reaction mixture is stirred at ambient temperature and then diluted with diethyl ether and the layers are separated. The organic layer is dried over Na2SO4, decanted and concentrated. The crude material is purified by fractional distillation to yield 3,3,4-trimethylpentanol.

reactant | 3,3,4-Trimethylpentene | 1 equiv | CC(C=C)(C(C)C)C | C8H16
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 0.4 equiv | C1CCOC1 | C4H8O
product | 3,3,4-trimethylpentanol | CC(CCO)(C(C)C)C | C8H18O
